US08648087B2
Step E: Preparation of 4-(2-methyl-4-nitrophenoxy)pyridin-2-amine:
To a solution of tert-butyl 4-(2-methyl-4-nitrophenoxy)pyridin-2-ylcarbamate (1.0 g, 2.90 mmol) in dichloromethane (28 mL) was added TFA (4 mL). After stirring at room temperature for 6 hours, the reaction mixture was concentrated under reduced pressure to provide the crude product that was used without further purification.

reactant | tert-butyl 4-(2-methyl-4-nitrophenoxy)pyridin-2-ylcarbamate | 2.90 mmol, 1.0 g | CC1=C(OC2=CC(=NC=C2)NC(OC(C)(C)C)=O)C=CC(=C1)[N+](=O)[O-] | C17H19N3O5
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 28 mL | ClCCl | CH2Cl2
product | 4-(2-methyl-4-nitrophenoxy)pyridin-2-amine | CC1=C(OC2=CC(=NC=C2)N)C=CC(=C1)[N+](=O)[O-] | C12H11N3O3
